US05726172
A solution of trifluoromethanesulfonyl chloride (640 μL, 6 mmol) in CH2Cl2 (5 mL) was cooled under argon to -78° C. (IPA:dry ice bath). 2,2,2-Trifluoroethanol was added (365 μL, 5 mmol) and triethylamine (834 μL, 6 mmol) was added dropwise. The reaction was stirred for 1.5 hours then warmed to 0° C. for 1 hour. Anhydrous ether (20 mL) was added and the mixture was stirred at 0° C. for 30 minutes. The solids were filtered off and the solvent was removed under reduced pressure with the flask maintained at 0° C. This afforded the 2,2,2-trifluoroethyltriflate as a yellow oil which was used immediately.

reactant | trifluoromethanesulfonyl chloride | 6 mmol, 640 μL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | dry ice | C(=O)=O | CO2
reactant | 2,2,2-Trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | triethylamine | 6 mmol, 834 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | IPA | CC(C)O | C3H8O
product | 2,2,2-trifluoroethyltriflate | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
